US06762199B2
(a) (5-Nitro-indan-2-yl)-acetic Acid
Acetic anhydride (3.5 mL) was added slowly to a stirred solution of nitric acid (2.1 g, S.G.1.42) in glacial acetic acid (4.2 mL) cooled in an ice-water bath. This nitrating solution was then added dropwise over 5 minutes to a rapidly stirred solution of indan-2-acetic acid (1.65 g) in a mixture of glacial acetic acid (4.2 mL) and acetic anhydride (3.5 mL), whilst keeping the reaction temperature below 5° C. After stirring for a further 20 minutes at room temperature the reaction mixture was poured onto ice-water (60 mL). This mixture was extracted three times with dichloromethane. The combined extracts were washed twice with a little water, then dried over magnesium sulfate and then evaporated to give the title compound (2.22 g) as a red oil which was used without further purification.

reactant | Acetic anhydride | 3.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 2.1 g | [N+](=O)(O)[O-] | HNO3
reactant | indan-2-acetic acid | 1.65 g | C1C(CC2=CC=CC=C12)CC(=O)O | C11H12O2
reactant | acetic anhydride | 3.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 4.2 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4.2 mL | C(C)(=O)O | C2H4O2
product | (5-Nitro-indan-2-yl)-acetic Acid | 2.22 g | [N+](=O)([O-])C=1C=C2CC(CC2=CC1)CC(=O)O | C11H11NO4
